US06706707B2
2-(4-Amino-phenylethynyl)-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester
The title compound, MS: m/e=284.4 (M+H+) was prepared in accordance with the general method of example 1b from 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester and 4-ethynylaniline.

reactant | 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)Br)C | C8H11BrN2O2
reactant | 4-ethynylaniline | C(#C)C1=CC=C(N)C=C1 | C8H7N
product | 2-(4-Amino-phenylethynyl)-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)C#CC1=CC=C(C=C1)N)C | C16H17N3O2
